US04058568
Preparation of 1,2,3,4,9,9-hexachloro-1,4,4a,6,7,8a-hexahydro-6-phenylsulfonyl-1,4-methanonaphthalene-5,8-dione.
38 g. of 1,2,3,4,9,9-hexachloro-1,4,4a,8a-tetrahydro-1,4-methanonaphthalene-5,8-dione, prepared as in Example 1, were dissolved in 250 ml. of benzene, 15 g. of freshly generated benzene sulfinic acid were added and then a few drops of water were added. This reaction mixture was heated at 40°-45° C. for 12 hours and then the benzene was evaporated. The white solid residue obtained was recrystallized from benzene twice and yielded white crystals, m.p. 157°-158° C. The yield was about 88%.

reactant | 1,2,3,4,9,9-hexachloro-1,4,4a,8a-tetrahydro-1,4-methanonaphthalene-5,8-dione | ClC12C(=C(C(C3C(C=CC(C13)=O)=O)(C2(Cl)Cl)Cl)Cl)Cl | C11H4Cl6O2
reactant | benzene sulfinic acid | C1(=CC=CC=C1)S(=O)O | C6H6O2S
catalyst | water | a few drops | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1,2,3,4,9,9-hexachloro-1,4,4a,6,7,8a-hexahydro-6-phenylsulfonyl-1,4-methanonaphthalene-5,8-dione | yield was about 88% | ClC12C(=C(C(C3C(C(CC(C13)=O)S(=O)(=O)C1=CC=CC=C1)=O)(C2(Cl)Cl)Cl)Cl)Cl | C17H10Cl6O4S
